US04927928
(a) 4-[3-(1-adamantyl)-4-methoxy benzamido]benzoic acid chloride
2.0 g (5 mmoles) of 4-[3-(1-adamantyl)-4-methoxy benzamido]benzoic acid are dissolved in 60 ml of THF. 1.1 g (6 mmoles of dicyclohexylamine are slowly added. A white precipitate is immediately formed. The reaction mixture is then cooled to 0° C. and 0.7 g (6 mmoles) of thionyl chloride is slowly added. The reaction mixture is stirred for 3 hours at ambient temperature. The solid that forms is filtered and then the filtrate is evaporated. The resulting residue is used, as is, in the following synthesis.

reactant | 4-[3-(1-adamantyl)-4-methoxy benzamido]benzoic acid | 5 mmoles, 2.0 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)NC3=CC=C(C(=O)O)C=C3)C=CC2OC | C25H27NO4
reactant | dicyclohexylamine | 6 mmoles | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | thionyl chloride | 6 mmoles, 0.7 g | S(=O)(Cl)Cl | Cl2OS
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 4-[3-(1-adamantyl)-4-methoxy benzamido]benzoic acid chloride | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)NC3=CC=C(C(=O)Cl)C=C3)C=CC2OC | C25H26ClNO3
